US05972975
By analogy to Example 56, Step B, 6-(2-aminoethyl)-4-methyl-2-(2,5-dimethylpyrrol-1-yl)pyridine was treated with 4.6 equivalents of hydroxylamine hydrochloride and 3.2 equivalents of potassium hydroxide in refluxing ethanol/water to yield 2-amino-6-(2-aminoethyl)-4-methylpyridine.

reactant | 6-(2-aminoethyl)-4-methyl-2-(2,5-dimethylpyrrol-1-yl)pyridine | NCCC1=CC(=CC(=N1)N1C(=CC=C1C)C)C | C14H19N3
reactant | hydroxylamine hydrochloride | 4.6 equivalents | Cl.NO
reactant | potassium hydroxide | 3.2 equivalents | [OH-].[K+]
solvent | ethanol water | C(C)O.O
product | 2-amino-6-(2-aminoethyl)-4-methylpyridine | NC1=NC(=CC(=C1)C)CCN | C8H13N3
